US07514566B2
tert-butyl (1R,2R)-3-(tert-butyldimethylsilyloxy)-2-hydroxy-1-(4-(trifluoromethyl)phenyl)propylcarbamate
tert-butyl (1R,2R)-2,3-dihydroxy-1-(4-(trifluoromethyl)phenyl)propylcarbamate (11 g, 32.8 mol) in 100 mL DMF was cooled in an ice-water bath. 1H-imidazole (8.2 mL, 72 mol) was added in one portion, and the mixture was stirred for 10 minutes under nitrogen. tert-butyldimethylsilylchloride (5.43 g, 36.0 mmol) in 20 mL DMF was added via syringe. The reaction was monitored by TLC. After 16 hours, DMF was evaporated under high vacuum. 150 mL distilled water was added, and the resulting mixture was extracted into diethyl ether (2×200 mL). The ether layer was washed with saturated aqueous ammonia chloride and dried over sodium sulfate. After removing the solvent, the product was obtained as a white solid (14.0 g, yield=95%). 1H NMR (400 MHz, CD3OD) δ ppm 0.08-0.12 (m, 6H) 0.97 (s, 9H) 1.43 (s, 9H) 3.50 (s, 1H) 3.63 (s, 1H) 3.85 (s, 1H) 4.81 (s, 1H) 7.53-7.58 (m, 2H) 7.60-7.66 (m, 2H).

reactant | tert-butyl (1R,2R)-2,3-dihydroxy-1-(4-(trifluoromethyl)phenyl)propylcarbamate | 32.8 mol, 11 g | O[C@H]([C@@H](C1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)CO | C15H20F3NO4
reactant | 1H-imidazole | 72 mol, 8.2 mL | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilylchloride | 36.0 mmol, 5.43 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-butyl (1R,2R)-3-(tert-butyldimethylsilyloxy)-2-hydroxy-1-(4-(trifluoromethyl)phenyl)propylcarbamate | 14.0 g, yield=95% | [Si](C)(C)(C(C)(C)C)OC[C@@H]([C@@H](C1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)O | C21H34F3NO4Si
